US07795236B2
N-(4-Benzylbenzyl)phthalimide
To a solution of 4-benzoylbenzoic acid (2.00 g) in trifluoroacetic acid (30 mL) was added dropwise triethylsilane (3.53 mL), and the resulting mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and then n-hexane was added to the residue. The precipitate was collected by filtration, washed with n-hexane and dried under reduced pressure at 60° C. to give 4-benzylbenzoic acid (1.66 g). To an ice-cold suspension of lithium aluminium hydride (0.315 g) in tetrahydrofuran (45 mL) was added dropwise a solution of 4-benzylbenzoic acid (1.60 g) in tetrahydrofuran (30 mL), and the resulting mixture was stirred at room temperature for 4.5 hours. The reaction was quenched by sequential addition of water (0.320 mL), 15% aqueous sodium hydroxide (0.320 mL) and water (0.320 mL). The insoluble material was filtered out and the filtrate was concentrated under reduced pressure to give 4-benzylbenzyl alcohol (1.56 g). 4-Benzylbenzylalcohol (1.56 g) was dissolved in tetrahydrofuran (39 mL). After addition of phthalimide (1.39 g) and triphenylphosphine (2.68 g), diisopropylazodicarboxylate (40% toluene solution, 5.17 g) was added dropwise, and the resulting mixture was stirred at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give the title compound (1.87 g).

reactant | 4-Benzylbenzylalcohol | 1.56 g | C(C1=CC=CC=C1)C1=CC=C(CO)C=C1 | C14H14O
reactant | phthalimide | 1.39 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 2.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 5.17 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 39 mL | O1CCCC1 | C4H8O
product | N-(4-Benzylbenzyl)phthalimide | 1.87 g | C(C1=CC=CC=C1)C1=CC=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C22H17NO2
